US04271068
(2) H-Asn-OtBu
23.6 Grams (73.2 mmols) of Z-Asn-OtBu in 200 ml of ethyl acetate are hydrogenated in the presence of 2 g of palladium carbon (10% Pd) until, after 1 hour, hydrogen is no longer absorbed. The catalyst is filtered off and the filtrate concentrated, whereupon the product, melting at 96°-98° C., crystallizes out. Optical rotation [α]D20 =+2° (c=2.1 in methanol). In the thin-layer chromatogram on silica gel the Rf52 =0.30; Rf45 =0.50.

reactant | Z-Asn-OtBu | 73.2 mmols | N([C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C16H22N2O5
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 2 g | [C].[Pd]
product | H-Asn-OtBu | N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C8H16N2O3
